US05219852
Methyl 3-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-5-(2-trifluoromethyl-thiazol-4-yl)-2-oxazolidinecarboxylate
0.52 g (0.0012 mol) of N-[2-(4-carbomethoxymethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(2-trifluoromethylthiazol-4-yl)ethanamine and 0.211 g (0.0024 mol) of methyl glyoxylate and 25 ml toluene are heated at 120° C. for 10 minutes and then boiled under a water trap for 1 hour. The solution is cooled, 50 ml of ethyl acetate are added, and the mixture is shaken with 30 ml of water. The organic phase is separated off, dried over sodium sulphate and concentrated. The residue is purified on a laboratory size B prepacked column (supplied by Merck) using toluene/ethyl acetate=20:1.5 as eluant.

reactant | N-[2-(4-carbomethoxymethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(2-trifluoromethylthiazol-4-yl)ethanamine | 0.0012 mol, 0.52 g | C(=O)(OC)COC1=CC=C(C=C1)CC(C)NCC(C=1N=C(SC1)C(F)(F)F)O | C18H21F3N2O4S
reactant | methyl glyoxylate | 0.0024 mol, 0.211 g | C(C=O)(=O)OC | C3H4O3
reactant | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 30 ml | O | H2O
product | Methyl 3-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-5-(2-trifluoromethyl-thiazol-4-yl)-2-oxazolidinecarboxylate | C(=O)(OC)COC1=CC=C(C=C1)CC(C)N1C(OC(C1)C=1N=C(SC1)C(F)(F)F)C(=O)OC | C21H23F3N2O6S
